US04851526
2-[[(Methylsulfonyl)oxy]methyl]cyclopropane carbonitrile
In a manner similar to Preparation 75, react 2-(hydroxymethyl)cyclopropanecarbonitrile with methanesulfonic anhydride and triethylamine to obtain the title compound.

reactant | 2-(hydroxymethyl)cyclopropanecarbonitrile | OCC1C(C1)C#N | C5H7NO
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[[(Methylsulfonyl)oxy]methyl]cyclopropane carbonitrile | CS(=O)(=O)OCC1C(C1)C#N | C6H9NO3S
